US05434150
2-(4-Aminomethyl-phenyl)-1-(3-amino-propyl)-5-[(2-carboxy-ethyl)-aminocarbonyl]-benzimidazole-hydrogen acetate
0.8 g of 2-(4-aminomethyl-phenyl)-1-(3-amino-propyl)-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-benzimidazole are left to stand for 20 hours at ambient temperature in 10 ml of 48% hydrobromic acid. The mixture is concentrated by evaporation in vacuo and the residue is purified by chromatography on silica gel (eluant:n-butanol/glacial acetic acid/water=4:1:1 to 4:2:2). Yield: 0.6 g (67% of theory), Rf value: 0.66 (Reversed Phase Plate RP18; methanol/5% sodium chloride solution/conc. hydrobromic acid=6:10:0.01)

reactant | 2-(4-aminomethyl-phenyl)-1-(3-amino-propyl)-5-[(2-methoxycarbonyl-ethyl)-aminocarbonyl]-benzimidazole | 0.8 g | NCC1=CC=C(C=C1)C1=NC2=C(N1CCCN)C=CC(=C2)C(=O)NCCC(=O)OC | C22H27N5O3
solvent | hydrobromic acid | 10 ml | Br | BrH
product | 2-(4-Aminomethyl-phenyl)-1-(3-amino-propyl)-5-[(2-carboxy-ethyl)-aminocarbonyl]-benzimidazole hydrogen acetate | NCC1=CC=C(C=C1)C1=NC2=C(N1CCCN)C=CC(=C2)C(=O)NCCC(=O)O.C(C)(=O)O | InChI=1S/C21H25N5O3.C2H4O2/c22-9-1-11-26-18-7-6-16(21(29)24-10-8-19(27)28)12-17(18)25-20(26)15-4-2-14(13-23)3-5-15;1-2(3)4/h2-7,12H,1,8-11,13,22-23H2,(H,24,29)(H,27,28);1H3,(H,3,4)
